US08895558B2
Step 2: Benzyl 3-(4-(3-chlorophenyl)piperazin-1-yl)propylcarbamate
1-(3-Chlorophenyl)piperazine hydrochloride (5 g, 25.4 mmol), benzyl 3-bromopropylcarbamate (8.3 g, 30.5 mmol) and potassium carbonate (10.5 g, 75.9 mmol) were heated to 80° C. in dimethylformamide (100 ml) for overnight under nitrogen condition. After the reaction complete, the reaction mixture was cooled to room temperature and water was added. The organic layer was extracted with ethyl acetate, and washed with water and brine. After drying with MgSO4, the organic layer was filtered and evaporated under reduced pressure to give the title compound (7.2 g, 73%) as light yellow oil, which was used in the deprotection reaction without further purification.

reactant | 1-(3-Chlorophenyl)piperazine hydrochloride | 25.4 mmol, 5 g | Cl.ClC=1C=C(C=CC1)N1CCNCC1
reactant | benzyl 3-bromopropylcarbamate | 30.5 mmol, 8.3 g | BrCCCNC(OCC1=CC=CC=C1)=O | C11H14BrNO2
reactant | potassium carbonate | 75.9 mmol, 10.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | Benzyl 3-(4-(3-chlorophenyl)piperazin-1-yl)propylcarbamate | 7.2 g, 73% | ClC=1C=C(C=CC1)N1CCN(CC1)CCCNC(OCC1=CC=CC=C1)=O | C21H26ClN3O2
